US05565441
The reaction of trimethylphosphonoacrylate and ethyldiazoacetate was carded out as follows. Trimethylphosphonoacrylate (1.0 g, 5.15 mmol) was dissolved in methyl-t-butyl ether followed by ethyl diazoacetate (0.60 g, 5.26 mmol). After stirring overnight, the reaction was filtered and the resultant solid (880 mg, 55%) recrystallized from acetone-hexane to afford off-white granules of the pyrazoline 1H-Pyrazole-5-carboxylic-acid, 3-carboethoxy-5-(dimethoxyphosphinyl)-4,5-dihydro, methyl ester (699 mg) mp 100°-102°.

reactant | ethyldiazoacetate | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
reactant | ethyl diazoacetate | 5.26 mmol, 0.60 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | methyl-t-butyl ether | COC(C)(C)C | C5H12O
product | pyrazoline 1H-Pyrazole-5-carboxylic-acid | N1N=CC=C1C(=O)O.N1NC=CC1 | InChI=1S/C4H4N2O2.C3H6N2/c7-4(8)3-1-2-5-6-3;1-2-4-5-3-1/h1-2H,(H,5,6)(H,7,8);1-2,4-5H,3H2
